US07179801B2
A solution of ethyl 3-(4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidin-3-yl)propionate (30 g) in saturated methanolic ammonia solution (700 ml) was stirred at 110° C. for 5 days in an autoclave. After evaporation of the solvent in vacuo, methylene chloride was added to the residue. The resulting solid was collected by filtration and dissolved in methanol. To the solution was added activated charcoal, and the mixture was filtered. The filtrate was concentrated in vacuo. The residue was triturated with acetonitrile and dried in vacuo to give 3-(4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidin-3-yl)propionamide (11.3 g) as a solid.

reactant | ethyl 3-(4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidin-3-yl)propionate | 30 g | N1=CC(=C2N1CCCN2)CCC(=O)OCC | C11H17N3O2
reactant | ammonia | 700 ml | N | H3N
product | 3-(4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidin-3-yl)propionamide | 11.3 g | N1=CC(=C2N1CCCN2)CCC(=O)N | C9H14N4O
